US04756739
5,6-dichloro-3-pyridinol-1-oxide
3.28 g (20 mmol) of 5,6-dichloro-3-pyridinol in 15 ml of glacial acetic acid were N-oxidized at 100° C. using 2.14 g (21 mmol) of 35% hydrogen peroxide. When the reaction was complete, the mixture was neutralized, extracted with ethyl acetate and washed until neutral, and the solvent was removed by evaporation.

reactant | 5,6-dichloro-3-pyridinol | 20 mmol, 3.28 g | ClC=1C=C(C=NC1Cl)O | C5H3Cl2NO
reactant | hydrogen peroxide | 21 mmol, 2.14 g | OO | H2O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 5,6-dichloro-3-pyridinol-1-oxide | ClC=1C=C(C=[N+](C1Cl)[O-])O | C5H3Cl2NO2
